US07417062B2
Step 1: (2S,3aS,7aS)-2-{[(Benzofuran-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester.
To a solution of 31 mg (0.12 mmol) of (2S,3aS,7aS)-2-formyl-octahydro-indole-1-carboxylic acid tert-butyl ester in 1 mL dichloromethane, 18 mg (0.12 mmol) of c-benzofuran-2-yl-methylamine 40 mg (0.18 mmol) of sodium triacetoxyborohydride were added and the mixture was stirred for 3 hours, then diluted with 5 mL dichloromethane and quenched with 3 mL of aqueous sodium bicarbonate. The aqueous layer was extracted once with dichloromethane and the combined organic layers were dried with anhydrous magnesium sulfate, evaporated in vacuum and purified using reverse phase HPLC, mobile phase with a gradient 15-80% acetonitrile in 50 min. Fractions containing pure product were evaporated in vacuum to yield, 53 mg of white solid as the trifluoroacetate. LC-MSD, m/z for C23H32N2O3 [M+H]+: 385.2.

reactant | (2S,3aS,7aS)-2-formyl-octahydro-indole-1-carboxylic acid tert-butyl ester | 0.12 mmol, 31 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)C=O | C14H23NO3
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,3aS,7aS)-2-{[(Benzofuran-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)CNCC=1OC2=C(C1)C=CC=C2 | C23H32N2O3
